US08748418B2
4-[3-((R)-3-Amino-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-5-yl)-4-fluoro-phenylamino]-benzonitrile
To a solution of (R)-4-(3-(3-(bis(4-methoxyphenyl)(phenyl)methylamino)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-5-yl)-4-fluorophenylamino)benzonitrile (intermediate A13A) (21 mg, 31 μmol) in dichloromethane (1 ml) at 23° C. was added trifluoroacetic acid (370 mg, 250 μl, 3.24 mmol) and the mixture was stirred at 23° C. for 1 h. Poured into sat. Na2CO3-sol., extracted thrice with ethyl acetate, dried the combined organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by preparative HPLC (column: Gemini 5μ C18 110 A° AXIA (50×21.2 mm); flow: 40 ml/min; gradient: water (+0.1% TEA)/acetonitrile (90%-10% 1 min plateau; in 3.5 min to 5%-95%); collection: UV-detector 300 nm) to give the title compound (8.9 mg, 76.6%) after trituration with little diethyl ether/pentane as a white solid. MS (ISP): m/z=375.3 [M+H]+.

reactant | (R)-4-(3-(3-(bis(4-methoxyphenyl)(phenyl)methylamino)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-5-yl)-4-fluorophenylamino)benzonitrile | 31 μmol, 21 mg | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(NC=1COCC([C@@](N1)(C)C=1C=C(C=CC1F)NC1=CC=C(C#N)C=C1)(F)F)C1=CC=C(C=C1)OC | C40H35F3N4O3
reactant | trifluoroacetic acid | 3.24 mmol, 250 μl, 370 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-[3-((R)-3-Amino-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-5-yl)-4-fluoro-phenylamino]-benzonitrile | 8.9 mg, 76.6% | NC=1COCC([C@@](N1)(C)C=1C=C(C=CC1F)NC1=CC=C(C#N)C=C1)(F)F | C19H17F3N4O
